US04628056
Preparation of 5,5-di(p-tolyl)-barbituric acid
In a 500 cc. 3-necked flask fitted with a reflux condenser, a mercury seal stirrer and a thermometer in a well, were placed 16 g. of alloxan monohydrate and 60 g. of sulfuric acid, sp.gr. 1.84. Then 75 cc. of toluene were added through the reflux condenser and the mixture heated in an oil-bath, with stirring for four and one-half hours at 75°-80°. After this time the reaction mixture was cooled, most of the toluene later decanted, and the sirupy sulfuric acid later poured into 150 cc. of cold water. The precipitated material was filtered and washed in a beaker with 100 cc. of water and refiltered. After drying in a vacuum this material was dissolved in 160 cc. of boiling glacial acetic acid, filtered and allowed to crystallize.

reactant | alloxan monohydrate | O.N1C(=O)NC(=O)C(=O)C1=O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | mercury | [Hg] | Hg
product | 5,5-di(p-tolyl)-barbituric acid | C1(=CC=C(C=C1)C1(C(NC(NC1=O)=O)=O)C1=CC=C(C=C1)C)C | C18H16N2O3
